### PR TITLE
[ssr] Generalize tactics under and over to any (Reflexive) relation

### PR DESCRIPTION
**Pull request by erikmd**
**Kind:** enhancement.

~Depends on: #9651 (Add tactics under and over)~ [merged]

### ToDo
- [x] Discuss the relevancy of the way this generalization is implemented
- [x] Added / updated test-suite
- [x] Corresponding documentation was added / updated (including any warning and error messages added / removed / modified).
- [x] Entry added in `doc/changelog`

### CODE REVIEW

**Comment by erikmd** [comment]
Dear @maximedenes @CohenCyril @gares, following our latest discussion I've removed the last two commits from #9651 that were generalizing `iff` to any `RewriteRelation`.
These two commits are now gathered in this PR (#10022) so we'll be able to discuss this generalization more thoroughly in the upcoming days.

Related comments include:

- [@gares' comment 1](https://github.com/coq/coq/pull/9651#issuecomment-486990168)
- [@gares' comment 2](https://github.com/coq/coq/pull/9651#issuecomment-487065191)
- [@erikmd's comment 3](https://github.com/coq/coq/pull/9651#issuecomment-487171488)
- [@erikmd's comment 4](https://github.com/coq/coq/pull/9651#issuecomment-487189573)

Kind regards, Erik

**Comment by Zimmi48** [comment]
Please next time you open a PR that depends on another, use the "wip" feature so that we don't get spurious review requests.

**Comment by CohenCyril** [comment]
The dependency #9651 was merged just now.

**Comment by gares** [comment]
please rebase

File: plugins/ssr/ssreflect.v [hunk 1]
```diff
@@ -547,53 +547,68 @@ Lemma under_eq_done :
...
-
-(** [under_iff_done]: for Ltac-style over *)
-Parameter under_iff_done :
-  forall (x : Prop), @Under_iff x x.
-Notation "''Under[' x ]" := (@Under_iff x _)
+Register Under_eq.Under_eq as plugins.ssreflect.Under_eq.
+Register Under_eq.Under_eq_from_eq as plugins.ssreflect.Under_eq_from_eq.
+
+Require Import Coq.Relations.Relation_Definitions.
+Require Import RelationClasses.
```
Comment (gares) [inline plugins/ssr/ssreflect.v]: These two lines are ones that made us postpone this feature.
The point is that we would line ssreflect.v to depend on a minimal amount of the stdlib.
This file seems pretty innocuous, and provides `relation`: https://github.com/coq/coq/blob/master/theories/Relations/Relation_Definitions.v
This one is a bit more heavy, and provides `Reflexive`: https://github.com/coq/coq/blob/master/theories/Classes/RelationClasses.v#L34

Question: would it be possible to just put here an identical definition of `Reflexive` and in a file `ssreflect_setoids.v` provide a TC instance linking `ssreflect.Reflexive` to `RelationClasses.reflexive`?

CC @CohenCyril

**Comment by gares** [comment]
You also miss a changes entry, see the new `doc/changelog`directory

**Comment by erikmd** [comment]
@gares thanks! I'm going to look at this soon.

**Comment by erikmd** [comment]
@gares your suggestion was helpful, I'm currently working on this and I'll let you know when it's ready (maybe tomorrow)

**Comment by erikmd** [comment]
Dear @gares,
I've just completed the reimplementation of under's support for Setoid equalities.

To sum up, I iterated from your suggestion of "cloning" the `Reflexive` typeclass, but I ended up adding two Coq theories instead of just one, in order to be able to use `Setoid` without `ssreflect` or `ssreflect` without `Setoid`, or both.

This leads to the following dependencies diagram between the different Coq theories:

PR10022

For more details, see the commit messages.
(I also slightly changed the doc and the tests, and added a changelog entry as requested.)

Cc @CohenCyril @maximedenes

**Comment by erikmd** [comment]
And regarding your other comment @gares

> This file seems pretty innocuous, and provides `relation` https://github.com/coq/coq/blob/master/theories/Relations/Relation_Definitions.v

I've just replaced all the occurrences of `relation A` with `A -> A -> Prop` in my PR (a bit like the style adopted in stdlib2 AFAICS), so no more need for `Relation_Definitions` in this PR.

**Comment by erikmd** [comment]
Hi @gares and @maximedenes,
I think this PR is ready… could one of you take a look this week? :smiley:

**Review by gares — APPROVED** [review]
Looks good to me

**Comment by CohenCyril** [comment]
> I think this PR is ready… could one of you take a look this week?

I will take a look this week as well...

**Comment by erikmd** [comment]
During the Coq Workshop in Portland, Damien Pous and Armaël Guéneau asked a question related to this PR generalizing `under`, and more specifically on the feasibility of using `under` with `PreOrder`s.

Focusing on this context lemma:
```
Lemma leq'_big (I : Type) (F G : I -> nat) (r : seq I) :
  (forall i : I, leq' (F i) (G i)) -> (leq' (\sum_(i <- r) F i) (\sum_(i <- r) G i)).
```

the proof script below is a proof-of-concept of this idea - the only change that appeared necessary to go beyond the typical use case of `Equivalence`s was adding a rewrite rule `UnderE` (cf. [last commit](https://github.com/coq/coq/pull/10022/commits/e4c185319f3511a8794a12b099400015508d76ee)).

```coq
(* PreOrder example, using https://github.com/coq/coq/pull/10022
   and coq-mathcomp-ssreflect *)

Require Import ssreflect.
From mathcomp Require Import all_ssreflect.

Require Setoid.
Require Import Morphisms.

(** Tip to tell rewrite that the LHS of [leq' x y (:= leq x y = true)]
    is x, not [leq x y] *)
Definition rel_true {T} (R : rel T) x y := is_true (R x y).
Definition leq' : nat -> nat -> Prop := rel_true leq.

(** Context lemma *)
Lemma leq'_big (I : Type) (F G : I -> nat) (r : seq I) :
  (forall i : I, leq' (F i) (G i)) -> (leq' (\sum_(i <- r) F i) (\sum_(i <- r) G i)).
Proof.
red=> HFG.
apply: (big_ind2 leq _ _ (P := predT) (op1 := addn) (op2 := addn)) =>//.
move=> *; exact: leq_add.
move=> *; exact: HFG.
Qed.

(** Instances for [setoid_rewrite] *)
Instance leq'_rr : RewriteRelation leq' := {}.

Instance leq'_proper_addn : Proper (leq' ==> leq' ==> leq') addn.
Proof. move=> a1 b1 le1 a2 b2 le2; exact/leq_add. Qed.

Instance leq'_proper_muln : Proper (leq' ==> leq' ==> leq') muln.
Proof. move=> a1 b1 le1 a2 b2 le2; exact/leq_mul. Qed.

Instance leq'_preorder : PreOrder leq'.
(** encompasses [Reflexive] *)
Proof. rewrite /leq' /rel_true; split =>// ??? A B; exact: leq_trans A B. Qed.

Lemma test : forall n : nat,
  (1 + 2 * (\sum_(i < n) (3 + i)) * 4 + 5 <= 6 + 24 * n + 8 * n ^ 2)%N.
Proof.
move=> n; rewrite -[is_true _]/(rel_true _ _ _) -/leq'.
have lem : forall (i : 'I_n), 3 + i <= 3 + n.
{ move=> i; rewrite leq_add2l; apply/ltnW/ltn_ord. }

under leq'_big => i.

{ rewrite UnderE. (* unprotect the evar *)
  exact: lem. (* instantiate the evar with the bound "3 + n" *) }

(* uninteresting end of proof - just for completeness *)
rewrite /leq' /rel_true big_const_ord /= iter_addn_0.
match goal with [|- is_true (?a <= ?b)] =>
ring_simplify a; ring_simplify b end; exact: leqnn.
Qed.
```

Cc @Armael @Damien-pous @dpous @gares @CohenCyril FYI

**Comment by gares** [comment]
@CohenCyril can you have a look at this one? 8.11 will freeze soonish

**Comment by erikmd** [comment]
Hi @gares 

> 8.11 will freeze soonish

OK, thanks for the ping! (I'll also need to address your very last review above)

BTW would you have some time estimate of the freeze?

**Comment by gares** [comment]
It must be merged before the end of the month.

File: doc/changelog/05-tactic-language/10022-ssr-under-setoid.rst [hunk 2]
```diff
@@ -0,0 +1,6 @@
+- The :tacn:`under` and :tacn:`over` tactics can handle any registered
+  setoid equality (beyond mere double implications).  See also Section
```
[the remark this answers is not in the document]
Comment (erikmd) [reply doc/changelog/05-tactic-language/10022-ssr-under-setoid.rst]: @gares Good point, I've pushed a commit that elaborates on that, hopefully the new changelog makes it clearer what differs w.r.t. `under` from Coq 8.10.

File: plugins/ssr/ssrfwd.ml [hunk 3]
```diff
@@ -349,16 +349,33 @@ let intro_lock ipats =
...
+            Array.length args = 2 && is_app_evar sigma args.(1) ->
+              Tactics.New.refine ~typecheck:true (fun sigma ->
+                let lm2 = Array.length args - 2 in
+                let sigma, carrier =
+                  Typing.type_of env sigma args.(lm2) in
+                let rel = EConstr.mkApp (hd, Array.sub args 0 lm2) in
+                let rel_args = Array.sub args lm2 2 in
+                let sigma, refl =
+                  (* this could raise Not_found, but this should never occur in
+                     practice given ssrclasses.v, so we put no try/with block *)
```
[the remark this answers is not in the document]
Comment (erikmd) [reply plugins/ssr/ssrfwd.ml]: Thanks @gares! I'll address your suggestion ASAP.

[the remark this answers is not in the document]
Comment (erikmd) [reply plugins/ssr/ssrfwd.ml]: @gares done; sorry for the delay.

File: plugins/ssr/ssrclasses.ml [hunk 4]
```diff
@@ -0,0 +1,59 @@
...
+  let gr = lazy (Coqlib.lib_ref s) in
+    fun (evd,cstrs) ->
+      let (evd, c) = Evarutil.new_global evd (Lazy.force gr) in
+        (evd, cstrs), c
+
+(* Copy of [Rewrite.app_poly_check] *)
+let app_poly_check env evars f args =
+  let (evars, cstrs), fc = f evars in
+  let evars, t = Typing.solve_evars env evars (EConstr.mkApp (fc, args)) in
+  (evars, cstrs), t
```
[the remark this answers is not in the document]
Comment (erikmd) [reply plugins/ssr/ssrclasses.ml]: @gares thanks for your comment; it's true that this code seems to be duplicated, but the precise feature that was needed here was not available in Coq's `Rewrite`: basically I need to use a "clone" of `Rewrite.get_reflexive_proof`, using class `Coq.ssr.ssrclasses.Reflexive` instead of class `Coq.Classes.RelationClasses.Reflexive`, which is hard-coded in `Rewrite` currently:

https://github.com/coq/coq/blob/54689c1c1e1333dd1bf63c619481c2ec99a5762e/plugins/ltac/rewrite.ml#L147-L200

The other solution (generalizing `get_reflexive_proof` to any custom "Reflexivity" class for the sake of this PR #10022) sounded a bit more intrusive to me, because it would require to change the interface of `rewrite.mli`…
but if you prefer that latter solution, a refactoring is still possible − in this PR, or in a later PR: I specifically tried to "isolate" this artifact as much as possible in a separate library `ssrclasses.ml, ssrclasses.mli` to ease one such refactoring if need be.
What do you think?

**Comment by erikmd** [comment]
Dear @CohenCyril,
I've just replied to @gares's remarks and the PR seems ready at first sight…
but I believe you were willing to have a look as well?

File: doc/changelog/06-ssreflect/10022-ssr-under-setoid.rst [hunk 5]
```diff
@@ -0,0 +1,21 @@
+- Generalize tactics :tacn:`under` and :tacn:`over` for any registered
+  setoid equality. More precisely, assume the given context lemma has
+  type `forall f1 f2, .. -> (forall i, R1 (f1 i) (f2 i)) -> R2 f1 f2`.
+  The first step performed by :tacn:`under` (since Coq 8.10) amounts
+  to calling the tactic :tacn:`rewrite <rewrite (ssreflect)>`, which
+  itself relies on :tacn:`setoid_rewrite` if need be. So this step was
+  already compatible with a double implication or setoid equality for
+  the conclusion head symbol `R2`. But a further step consists in
+  massaging the generated subgoal `R1 (f1 i) (?f2 i)` to protect it
```
Comment (gares) [inline doc/changelog/06-ssreflect/10022-ssr-under-setoid.rst]: Instead of massage I'd use "recognize"

Comment (erikmd) [reply doc/changelog/06-ssreflect/10022-ssr-under-setoid.rst]: @gares Indeed, my wording here was not very nice;
but it seems to me that `recognize` says less than what is done here?
so would you be OK with **`processing`** or **`wrapping`**?
(or do you have a strong preference for `recognizing`)

Comment (gares) [reply doc/changelog/06-ssreflect/10022-ssr-under-setoid.rst]: no, it is just that massaging seemed very informal. Maybe "tag"? Wrapping also works for me

Comment (erikmd) [reply doc/changelog/06-ssreflect/10022-ssr-under-setoid.rst]: OK thanks @gares, so let's go for "tagging" then :) (I just force-pushed to amend that commit.)

**Comment by gares** [comment]
I believe @CohenCyril is on holidays this week, let's try to get his feedback on this one next week

**Comment by ppedrot** [comment]
Last call before postponing this to 8.12.

**Comment by gares** [comment]
We had a Skype and Erik has a plan to improve the integration with setoids. He is aware of the deadline, maybe he was busy.

**Comment by erikmd** [comment]
Indeed, thanks @gares… I hope to finish that this evening. Hopefully that won't be too late.

**Comment by erikmd** [comment]
@gares Almost done, I kept all previous commits as discussed in the remote meeting,
and just pushed a first new commit (a last one is pending :)

**Comment by erikmd** [comment]
Dear @gares @CohenCyril @ppedrot;
Done, the PR is ready - and to recap what has been done:

1. Before the refactoring, the implementation of `under` relied on two different opaque modules `Under_eq` and `Under_rel`. Now, there is only `Under_rel`.
2. The `Under_rel.Under_rel` "tag" function does not have a `Reflexive` argument anymore.  
    (Reflexivity is just needed to discharge the `'Under[ _ ]` goals with `over.` or `by rewrite over.`)
3. The first two items above contributed to factor-out, and simplify the plugin code of under (no need for the extra file `ssrclasses.ml` anymore, which contained [duplicated code](https://github.com/coq/coq/pull/10022#discussion_r336796204) :)
4. The overall behavior and "tactic interface" is unchanged. In particular, it is still possible to use `under` (`Require Import ssreflect`) for `eq` and `iff`, without `Require Import Setoid`, and conversely do `Require Import Setoid`, without requiring `ssreflect`. To this aim, I needed to keep a few files in line with the architecture that I had proposed at first for this PR (see picture below).
5. I added some typeclass instances suggested by Cyril, to cover a wider spectrum of cases than just equivalences (at first I stumbled over an unbounded search with the suggested `Under_Equivalence` instance but this is now fixed).
6. I added a test case similar to the example from https://github.com/coq/coq/pull/10022#issuecomment-530101950, but "more compositional" (no need to instantiate the evar manually with `rewrite UnderE`) [(direct link to the example code)](https://github.com/coq/coq/blob/7b8e092963bb35230613a2b0f19bbbdac22d8612/test-suite/ssr/under.v#L315-L374)
    Cc @Armael @damien-pous @dpous FYI
7. The doc and changelog have been updated accordingly.

FYI this picture recaps the architecture of the latest version of this PR:

archi-ssr-under-setoid

The CI is on-going.
Hopefully @gares or @CohenCyril can take a final look; it would be great to have this in 8.11 :)

**Review by gares — APPROVED** [review]
Lgtm

**Comment by gares** [comment]
Thanks Erik! This is a good improvement.

I'd like some TC expert to give a quick look to the hint cuts,I don't even know the syntax . The intent is clear and correct.

**Comment by ppedrot** [comment]
I intend to branch this evening. Please merge this ASAP... Maybe pinging @mattam82 will help regarding the TC review.

**Comment by gares** [comment]
Is ci failure unrelated?

**Comment by erikmd** [comment]
@gares I think it is unrelated: the CI failure in this PR
https://gitlab.com/coq/coq/-/jobs/339104191
is exactly the same in other PRs, such as that of primitive floats:
https://gitlab.com/coq/coq/-/jobs/339271584

**Comment by erikmd** [comment]
Dear @mattam82, we need you expertise to validate the typeclasses part of this PR :)
could you have a look? FYI the relevant files are [`ssrclasses.v`](https://github.com/coq/coq/blob/f7c078d1a16a9554fb320a85b4c7d33499037484/plugins/ssr/ssrclasses.v) and [`ssrsetoid.v`](https://github.com/coq/coq/blob/f7c078d1a16a9554fb320a85b4c7d33499037484/plugins/ssr/ssrsetoid.v)
− the above-mentioned `Hint Cut`s being part of the latter file

**Comment by erikmd** [comment]
Hi @ppedrot and @herbelin, sorry to bother you, but I've just seen in [CODEOWNERS](https://github.com/coq/coq/blob/master/.github/CODEOWNERS) that you are secondary maintainers for `test-suite/typeclasses` and `theories/Setoids`, or `theories/Classes` ; so in case Matthieu were not available this evening to take a look at the [TC / `Hint Cut` question](https://github.com/coq/coq/pull/10022#issuecomment-548700721) before the freeze, do you think one of you could review that part?

**Comment by gares** [comment]
I looked at the hint cuts a bit more carefully and I don't get why they are needed.
The wont hurt, but the instances you don't want to apply twice in a row are like `Property R -> Property (Under R)`, so they naturally decrease the size of the input. Did you add them to fix a concrete issue?

In any case you ave green light on my side, so I will merge now. If they turn out to be a no-op (as I believe) we can always purge them before the final, or later.

**Comment by erikmd** [comment]
Hi @gares, thank you! :+1:

> Did you add them to fix a concrete issue?

Yes, as I have summarized in this comment:

https://github.com/erikmd/coq/blob/f7c078d1a16a9554fb320a85b4c7d33499037484/plugins/ssr/ssrsetoid.v#L22-L23

Without the `Hint Cut`, the `ssr` test-suite was still OK, but when building the whole stdlib, `Ring_polynom.v` didn't terminate; and after issuing some `Typeclasses eauto := debug` I noticed that the `under_Equivalence` instance was repeatedly applied (maybe because of the other instance `Under_subrelation`…); so this was fixed thanks to the
```
Hint Cut [_* Under_Reflexive Under_Reflexive] : typeclass_instances.
```
but I don't exclude that maybe `ssrsetoid.v` could be slightly modified so the `Hint Cut`s become unnecessary, indeed.
